US05232917
A mixture of 3β-hydroxy-5α-pregnan-20-one (285 mg, 318.5 g/m, 0.89 mmol), triphenylphosphine (258 mg, 262.3 g/m, 0.94 mmol), and benzoic acid (120 mg, 122.2 g/m, 0.98 mmol) were dissolved in 25 mL of tetrahydrofuran (freshly distilled). To this stirred reaction mixture at room temperature was added a solution of diisopropylazidodicarboxylate (DIAD) (0.194 mL, 1.027 g/ml, 202.2 g/m, 0.98 mmol) in 5 mL of tetrahydrofuran dropwise over a period of 5 minutes. The reaction was followed by thin layer chromatography (TLC) as the starting material was consumed. After two hours, the reaction mixture was concentrated under reduced pressure and filtered through a bed of silica gel (10 g) with a mixture of hexane/ethyl acetate (9:1). Fractions corresponding to the title compound were concentrated to give 349 mg of 3α-benzoyloxy-5α-pregnan-20-one (92% yield) as a white solid.

reactant | 3β-hydroxy-5α-pregnan-20-one | 0.89 mmol, 285 mg | O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H34O2
reactant | triphenylphosphine | 0.94 mmol, 258 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 0.98 mmol, 120 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3α-benzoyloxy-5α-pregnan-20-one | 349 mg, 92% yield | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C28H38O3
